US07196197B2
Preparation of 2-(2,2,2-trifluoroethoxy)benzoic acid
To a solution of 2,2,2-trifluoroethanol (40.0 g) and DMF (100 ml) was added sodium tert-butoxide (23.0 g) at 0° C. The solution was stirred at 20 to 25° C. for 1 hour at which point 2-chlorobenzoic acid (25.0 g) was added followed by cupric bromide (2.0 g). The mixture was stirred at 120° C. for 5 hours, cooled to 10° C., and water (30 ml) was added followed by 20% HCl solution (90 ml). The solution was extracted with dichloromethane (3×50 ml). The combined organic layers were washed with water (3×50 ml) and the volume was concentrated to 90 ml. Hexane (150 ml) was added to the residues, and the mixture was concentrated to volume of 120 ml and a further portion of hexane (30 ml) was added. The mixture was heated at 50° C. for 30 minutes and then stirred at room temperature for 1 hour. The solids were filtered to yield the crude product. This material was dissolved in ethyl acetate (50 ml), charcoal (1.7 g) was added and the mixture was stirred at room temperature a further 2 hours. The solution was filtered through Celite™ and crystallized from ethyl acetate/hexane to yield the pure product (30.9 g, yield 88.0%) as a white solid, m.p. 85–86° C.

reactant | 2,2,2-trifluoroethanol | 40.0 g | FC(CO)(F)F | C2H3F3O
reactant | sodium tert-butoxide | 23.0 g | CC(C)([O-])C.[Na+]
reactant | 2-chlorobenzoic acid | 25.0 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | HCl | 90 ml | Cl | ClH
reactant | charcoal | 1.7 g | C | CH4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(2,2,2-trifluoroethoxy)benzoic acid | 30.9 g, yield 88.0% | FC(COC1=C(C(=O)O)C=CC=C1)(F)F | C9H7F3O3
